US05126345
(D) 7-Chloro-1H-1,2,3-triazolo[4,5-d]pyrimidin-5-amine
A solution of 6-chloro-2,4,5-pyrimidinetriamine (10.94 g, 0.0686 mol) and isoamyl nitrite (9.20 ml, 0.0686 mol)in dioxane (500 ml, freshly purified by passage through basic alumina) was heated under nitrogen with stirring for 2 hours at 90°. The reaction mixture was cooled, treated with activated carbon, filtered, and concentrated to 150 ml. Petroleum ether (250 ml, bp 35-60° ) was added. The precipitate was filtered, washed the petroleum ether (50 ml) and dried in vacuo over P2O5 at 40° for 16 hours to give 9.23 g of crude desired product which was then used in the next step.

reactant | 6-chloro-2,4,5-pyrimidinetriamine | 0.0686 mol, 10.94 g | ClC1=C(C(=NC(=N1)N)N)N | C4H6ClN5
reactant | isoamyl nitrite | 0.0686 mol, 9.20 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-Chloro-1H-1,2,3-triazolo[4,5-d]pyrimidin-5-amine | 9.23 g | ClC=1C2=C(N=C(N1)N)N=NN2 | C4H3ClN6
